US05840732
i) Synthesis of 5-ethylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione
To a solution of 1.527 g (5.0 mmol) of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione and 0.311 ml (5.0 mmol) of acetaldehyde in 20 ml of ethanol, 0.05 ml (0.5 mmol) of piperidine was added, followed by refluxing for 17 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in dichloromethane, washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=3/1) to yield 77 mg (4.65%, yellow oily substance) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione | 5.0 mmol, 1.527 g | N=1C=CN2C1C=CC=C2SCCCCN2C(OCC2=O)=O | C14H15N3O3S
reactant | acetaldehyde | 5.0 mmol, 0.311 ml | C(C)=O | C2H4O
reactant | piperidine | 0.5 mmol, 0.05 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-ethylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione | C(C)=C1C(N(C(O1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C16H17N3O3S
